US08802679B2
Ethyl glycolate (116 mg) was dissolved in DMF (4 ml), and NaH (73 mg) was added thereto under ice-cooling. After stirring at the same temperature for 10 minutes, a solution of 4-nitrophenyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate (340 mg) in DMF (3 ml) was added thereto, followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2-ethoxy-2-oxoethyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate (35 mg).

reactant | Ethyl glycolate | 116 mg | C(CO)(=O)OCC | C4H8O3
reactant | NaH | 73 mg | [H-].[Na+]
reactant | 4-nitrophenyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate | 340 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C30H35N7O7
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-ethoxy-2-oxoethyl 4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazine-1-carboxylate | 35 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC | C28H38N6O7
